16
QP3 0 9 10 PNP 0.99 0.5 1e-9 43.429445e-3 1e-9 43.429445e-3 100 5e-12 100e-18
QP4 0 11 12 PNP 0.99 0.5 1e-9 43.429445e-3 1e-9 43.429445e-3 100 5e-12 100e-18
I0900 9 0 1 0 1E-3
I1100 11 0 1 0 1E-3
V0010 0 10 0 0 10
V0012 0 12 0 0 0.1
.AC DEC 10 1000 100000000
