16
QP1 13 14 0 PNP 0.99 0.5 1e-9 43.429445e-3 1e-9 43.429445e-3 100 5e-12 100e-18
QP2 15 16 0 PNP 0.99 0.5 1e-9 43.429445e-3 1e-9 43.429445e-3 100 5e-12 100e-18
I1400 14 0 1 0 1E-3
I1600 16 0 1 0 1E-3
V0013 0 13 0 0 10
V0015 0 15 0 0 0.1
.AC DEC 10 1000 100000000
