9
R0102 1 2 10000
R0304 3 4 10000
R0503 5 3 1000
C0406 4 6 10E-12
Q0702 7 2 0 NPN 0.99 0.5 1e-09 0.0434294 1e-09 0.0434294 100 5e-12 1e-16 5e-12 1e-16
Q0202 2 2 0 NPN 0.99 0.5 1e-09 0.0434294 1e-09 0.0434294 100 5e-12 1e-16 5e-12 1e-16
Q0402 4 2 0 NPN 0.99 0.5 1e-09 0.0434294 1e-09 0.0434294 100 5e-12 1e-16 5e-12 1e-16
Q0803 8 3 7 NPN 0.99 0.5 1e-09 0.0434294 1e-09 0.0434294 100 5e-12 1e-16 5e-12 1e-16
Q0609 6 9 7 NPN 0.99 0.5 1e-09 0.0434294 1e-09 0.0434294 100 5e-12 1e-16 5e-12 1e-16
Q0808 8 8 1 PNP 0.99 0.5 1e-09 0.0434294 1e-09 0.0434294 100 5e-12 1e-16 5e-12 1e-16
Q0608 6 8 1 PNP 0.99 0.5 1e-09 0.0434294 1e-09 0.0434294 100 5e-12 1e-16 5e-12 1e-16
Q0406 4 6 1 PNP 0.99 0.5 1e-09 0.0434294 1e-09 0.0434294 100 5e-12 1e-16 5e-12 1e-16
V0900 9 0 1 0 2.5
V0500 5 0 0 0 2.5
V0100 1 0 0 0 5
.AC DEC 100 1 100E9
