7
R0100 1 0 500
R0200 2 0 5000
R0302 3 2 2000
R0403 4 3 8000
R0405 4 5 1000
C0100 1 0 100E-6
C0206 2 6 1E-6
C0300 3 0 100E-9
Q0702 7 2 1 NPN 0.99 0.5 1e-09 0.0434294 1e-09 0.0434294 100 5e-12 1e-16 5e-12 1e-16
Q0503 5 3 7 NPN 0.99 0.5 1e-09 0.0434294 1e-09 0.0434294 100 5e-12 1e-16 5e-12 1e-16
V0400 4 0 0 0 10
V0600 6 0 1 0 0
.AC DEC 100 1 100E9
